US05506256
A) (2S)-1-(tert-Butoxycarbonyl)-2-[2-(4-fluorophenoxy)-1-hydroxyethyl]pyrrolidine
By the same procedure as in Example 26-B), while using (2S)-1-(tert-butoxycarbonyl)-2-(1,2-epoxyethyl)pyrrolidine (2.00 g) and 4-fluorophenol (2.21 g), there was obtained 1.91 g of the title compound.

reactant | (2S)-1-(tert-butoxycarbonyl)-2-(1,2-epoxyethyl)pyrrolidine | 2.00 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1CO1 | C11H19NO3
reactant | 4-fluorophenol | 2.21 g | FC1=CC=C(C=C1)O | C6H5FO
product | (2S)-1-(tert-Butoxycarbonyl)-2-[2-(4-fluorophenoxy)-1-hydroxyethyl]pyrrolidine | 1.91 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(COC1=CC=C(C=C1)F)O | C17H24FNO4
